** Name: SimpleTwoStageOpAmp_SimpleOpAmp44_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp44_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=596e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=9e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=516e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=596e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=104e-6
mNormalTransistorNmos9 FirstStageYout1 inputVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=104e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=330e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=330e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=7e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=304e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=430e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=34e-6
mNormalTransistorPmos17 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=516e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=450e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=450e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=191e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp44_9

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 14.9991 mW
** Area: 13948 (mu_m)^2
** Transit frequency: 24.1061 MHz
** Transit frequency with error factor: 24.1057 MHz
** Slew rate: 46.4325 V/mu_s
** Phase margin: 55.004°
** CMRR: 135 dB
** VoutMax: 4.35001 V
** VoutMin: 0.830001 V
** VcmMax: 3.52001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -37.8749 muA
** NormalTransistorPmos: -7.75699 muA
** NormalTransistorNmos: 215.922 muA
** NormalTransistorNmos: 323.881 muA
** NormalTransistorNmos: 215.923 muA
** NormalTransistorNmos: 323.882 muA
** NormalTransistorPmos: -215.921 muA
** NormalTransistorPmos: -215.922 muA
** DiodeTransistorPmos: -215.921 muA
** NormalTransistorPmos: -215.918 muA
** NormalTransistorPmos: -107.959 muA
** NormalTransistorPmos: -107.959 muA
** NormalTransistorNmos: 2286.51 muA
** DiodeTransistorNmos: 2286.51 muA
** NormalTransistorPmos: -2286.5 muA
** DiodeTransistorNmos: 37.8741 muA
** NormalTransistorNmos: 37.8731 muA
** DiodeTransistorNmos: 7.75601 muA
** DiodeTransistorNmos: 7.75501 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.82301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 1.15301  V
** out: 2.5  V
** outFirstStage: 3.78401  V
** outInputVoltageBiasXXnXX1: 1.23401  V
** outSourceVoltageBiasXXnXX1: 0.617001  V
** outSourceVoltageBiasXXnXX2: 0.557001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.22001  V
** out1: 3.42001  V
** sourceGCC1: 0.526001  V
** sourceGCC2: 0.526001  V
** sourceTransconductance: 3.37001  V
** inner: 0.617001  V


.END