** Name: SimpleTwoStageOpAmp_SimpleOpAmp45_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp45_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=1e-6 W=13e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=378e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=25e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=7e-6 W=16e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=501e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos9 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=378e-6
mNormalTransistorNmos10 outFirstStage inputVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=97e-6
mNormalTransistorNmos11 FirstStageYout1 inputVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=97e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=158e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=158e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=62e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=219e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=7e-6 W=491e-6
mNormalTransistorPmos18 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=145e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=501e-6
mNormalTransistorPmos20 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=276e-6
mNormalTransistorPmos21 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=276e-6
mNormalTransistorPmos22 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp45_9

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 14.9941 mW
** Area: 14948 (mu_m)^2
** Transit frequency: 25.6201 MHz
** Transit frequency with error factor: 25.6194 MHz
** Slew rate: 61.304 V/mu_s
** Phase margin: 55.577°
** CMRR: 136 dB
** VoutMax: 4.25 V
** VoutMin: 0.930001 V
** VcmMax: 3.65001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 22.8891 muA
** NormalTransistorPmos: -57.9719 muA
** NormalTransistorPmos: -24.7619 muA
** NormalTransistorNmos: 202.579 muA
** NormalTransistorNmos: 324.802 muA
** NormalTransistorNmos: 202.578 muA
** NormalTransistorNmos: 324.801 muA
** DiodeTransistorPmos: -202.578 muA
** NormalTransistorPmos: -202.577 muA
** NormalTransistorPmos: -202.578 muA
** NormalTransistorPmos: -244.446 muA
** NormalTransistorPmos: -122.223 muA
** NormalTransistorPmos: -122.223 muA
** NormalTransistorNmos: 2223.6 muA
** DiodeTransistorNmos: 2223.6 muA
** NormalTransistorPmos: -2223.59 muA
** DiodeTransistorNmos: 57.9711 muA
** NormalTransistorNmos: 57.9721 muA
** DiodeTransistorNmos: 24.7611 muA
** DiodeTransistorNmos: 24.7601 muA
** DiodeTransistorPmos: -22.8899 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.06801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 1.11601  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.33601  V
** outSourceVoltageBiasXXnXX1: 0.668001  V
** outSourceVoltageBiasXXnXX2: 0.561001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 4.65001  V
** out1: 4.28601  V
** sourceGCC1: 0.554001  V
** sourceGCC2: 0.554001  V
** sourceTransconductance: 3.47901  V
** inner: 0.669001  V


.END