** Name: SimpleTwoStageOpAmp_SimpleOpAmp46_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp46_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=17e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=473e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=282e-6
mNormalTransistorNmos6 out outInputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=579e-6
mNormalTransistorNmos7 outFirstStage outInputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=165e-6
mNormalTransistorNmos8 FirstStageYout1 outInputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=165e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=155e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=155e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=583e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=500e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=282e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=46e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=473e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=25e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=25e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=471e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp46_8

** Expected Performance Values: 
** Gain: 116 dB
** Power consumption: 14.9991 mW
** Area: 4920 (mu_m)^2
** Transit frequency: 27.2711 MHz
** Transit frequency with error factor: 27.2694 MHz
** Slew rate: 105.71 V/mu_s
** Phase margin: 55.004°
** CMRR: 130 dB
** VoutMax: 4.34001 V
** VoutMin: 0.800001 V
** VcmMax: 3.62001 V
** VcmMin: -0.369999 V


** Expected Currents: 
** NormalTransistorPmos: -32.5559 muA
** NormalTransistorNmos: 340.074 muA
** NormalTransistorNmos: 510.109 muA
** NormalTransistorNmos: 340.076 muA
** NormalTransistorNmos: 510.111 muA
** DiodeTransistorPmos: -340.073 muA
** DiodeTransistorPmos: -340.074 muA
** NormalTransistorPmos: -340.075 muA
** NormalTransistorPmos: -340.074 muA
** NormalTransistorPmos: -340.07 muA
** NormalTransistorPmos: -170.035 muA
** NormalTransistorPmos: -170.035 muA
** NormalTransistorNmos: 1927.13 muA
** NormalTransistorNmos: 1927.13 muA
** NormalTransistorPmos: -1927.12 muA
** DiodeTransistorNmos: 32.5551 muA
** DiodeTransistorNmos: 32.5541 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.23601  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.77601  V
** outInputVoltageBiasXXnXX1: 1.15701  V
** outSourceVoltageBiasXXnXX1: 0.602001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.23501  V
** innerTransistorStack2Load2: 4.23501  V
** out1: 3.41201  V
** sourceGCC1: 0.596001  V
** sourceGCC2: 0.596001  V
** sourceTransconductance: 3.67801  V
** innerStageBias: 0.553001  V


.END