** Name: SimpleTwoStageOpAmp_SimpleOpAmp47_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp47_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=58e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=174e-6
mNormalTransistorNmos5 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=159e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=6e-6 W=436e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=354e-6
mNormalTransistorNmos8 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=163e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=163e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=325e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=325e-6
mNormalTransistorPmos12 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=589e-6
mNormalTransistorPmos13 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=5e-6 W=544e-6
mNormalTransistorPmos14 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=5e-6 W=544e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=253e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=253e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=57e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=57e-6
mNormalTransistorPmos19 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=80e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp47_1

** Expected Performance Values: 
** Gain: 114 dB
** Power consumption: 13.5821 mW
** Area: 13405 (mu_m)^2
** Transit frequency: 26.0391 MHz
** Transit frequency with error factor: 26.0381 MHz
** Slew rate: 74.5693 V/mu_s
** Phase margin: 55.004°
** CMRR: 133 dB
** VoutMax: 4.61001 V
** VoutMin: 0.510001 V
** VcmMax: 3.59001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 353.338 muA
** NormalTransistorNmos: 155.988 muA
** NormalTransistorNmos: 211.588 muA
** NormalTransistorNmos: 318.819 muA
** NormalTransistorNmos: 211.588 muA
** NormalTransistorNmos: 318.819 muA
** NormalTransistorPmos: -211.587 muA
** NormalTransistorPmos: -211.588 muA
** NormalTransistorPmos: -211.587 muA
** NormalTransistorPmos: -211.588 muA
** NormalTransistorPmos: -214.464 muA
** NormalTransistorPmos: -107.231 muA
** NormalTransistorPmos: -107.231 muA
** NormalTransistorNmos: 1559.35 muA
** NormalTransistorPmos: -1559.34 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -353.337 muA
** DiodeTransistorPmos: -155.987 muA


** Expected Voltages: 
** ibias: 1.11601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.911001  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outVoltageBiasXXpXX2: 4.05001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.21901  V
** innerTransistorStack1Load2: 4.57901  V
** innerTransistorStack2Load2: 4.57901  V
** sourceGCC1: 0.535001  V
** sourceGCC2: 0.535001  V
** sourceTransconductance: 3.52101  V


.END