** Name: SimpleTwoStageOpAmp_SimpleOpAmp47_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp47_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=39e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=20e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=19e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=599e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos8 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=72e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=72e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=70e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=149e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=3e-6 W=209e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=3e-6 W=209e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=265e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=265e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=526e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=526e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=212e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp47_7

** Expected Performance Values: 
** Gain: 119 dB
** Power consumption: 14.7311 mW
** Area: 8183 (mu_m)^2
** Transit frequency: 25.5591 MHz
** Transit frequency with error factor: 25.559 MHz
** Slew rate: 29.4339 V/mu_s
** Phase margin: 55.004°
** CMRR: 136 dB
** VoutMax: 4.55001 V
** VoutMin: 0.200001 V
** VcmMax: 4.01001 V
** VcmMin: -0.359999 V


** Expected Currents: 
** NormalTransistorNmos: 66.9221 muA
** NormalTransistorPmos: -64.1289 muA
** NormalTransistorPmos: -137.366 muA
** NormalTransistorNmos: 155.872 muA
** NormalTransistorNmos: 253.599 muA
** NormalTransistorNmos: 155.872 muA
** NormalTransistorNmos: 253.599 muA
** NormalTransistorPmos: -155.871 muA
** NormalTransistorPmos: -155.872 muA
** NormalTransistorPmos: -155.871 muA
** NormalTransistorPmos: -155.872 muA
** NormalTransistorPmos: -195.451 muA
** NormalTransistorPmos: -97.7259 muA
** NormalTransistorPmos: -97.7259 muA
** NormalTransistorNmos: 2150.67 muA
** NormalTransistorPmos: -2150.66 muA
** DiodeTransistorNmos: 64.1281 muA
** DiodeTransistorNmos: 137.367 muA
** DiodeTransistorPmos: -66.9229 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.15501  V
** inputVoltageBiasXXnXX2: 0.610001  V
** inputVoltageBiasXXpXX1: 3.69001  V
** out: 2.5  V
** outFirstStage: 3.98601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.25401  V
** innerTransistorStack1Load2: 4.60701  V
** innerTransistorStack2Load2: 4.60701  V
** sourceGCC1: 0.405001  V
** sourceGCC2: 0.405001  V
** sourceTransconductance: 3.26701  V


.END